US04838924
2-(2,3-Dihydro-2,2-dimethyl-4H-1-benzopyran-7-yl)oxy-5-nitropyridine (an intermediate of compound No. 169)
Five milliliters of an N,N-dimethylformamide solution of 1.5 g of 2,3-dihydro-2,2-dimethyl-7-hydroxy-4H-1-benzopyran synthesized by the method of Referential Example 19 was added dropwise to a mixture of 0.35 g of sodium hydride and 4 ml of N,N-dimethylformamide. The mixture was stirred at room temperature for 0.5 hour, and 6 ml of an N,N-dimethylformamide solution of 2-chloro-5-nitropyridine (1.3 g) was added to the resulting reddish orange solution, and the mixture was stirred at room temperature for 5 hours. The reaction mixture was poured into 100 ml of water, and extracted with 100 ml of ethyl acetate. The extract was dried over magnesium sulfate, and concentrated. The residue was purified by column chromatography to give 2.1 g (yield 84%) of the desired product as a yellow liquid.

reactant | N,N-dimethylformamide | Five milliliters | CN(C=O)C | C3H7NO
reactant | 2,3-dihydro-2,2-dimethyl-7-hydroxy-4H-1-benzopyran | 1.5 g | CC1(OC2=C(CC1)C=CC(=C2)O)C | C11H14O2
reactant | sodium hydride | 0.35 g | [H-].[Na+]
reactant | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
reactant | 2-chloro-5-nitropyridine | 1.3 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | water | 100 ml | O | H2O
product | 2-(2,3-Dihydro-2,2-dimethyl-4H-1-benzopyran-7-yl)oxy-5-nitropyridine | 2.1 g, yield 84% | CC1(OC2=C(CC1)C=CC(=C2)OC2=NC=C(C=C2)[N+](=O)[O-])C | C16H16N2O4
